US04482723
2-Chloro-1,1-diethoxy-3-butanone
To a solution of 2.30 g of sodium metal in 180 ml ethanol, cooled in an ice-bath is added dropwise a solution of 13.90 g (0.10 mole) 1,2-dichloro-1-buten-3-one in 20 ml ethanol. The mixture is stirred for 2 hours, acidified with glacial acetic acid (4 ml) and the precipitated salt removed by filtration, washing with ethanol. The filtrate is concentrated in vacuo, the residue slurried in ethyl ether and filtered to remove salt. The ether is evaporated in vacuo and the residual oil is distilled to yield 12.49 g (64%) of the title compound, B.P. 52° C. at 1.5 torr. 1H-NMR (CDCl3) ppm (delta): 1.17 (t, 3H), 1.22 (t, 3H), 2.30 (s, 3H), 3.63 (m, 4H), 4.18 (d, 1H), 4.68 (d, 1H).

reactant | sodium | 2.30 g | [Na] | Na
reactant | 1,2-dichloro-1-buten-3-one | 0.10 mole, 13.90 g | ClC=C(C(C)=O)Cl | C4H4Cl2O
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 180 ml | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Chloro-1,1-diethoxy-3-butanone | 12.49 g, 64% | ClC(C(OCC)OCC)C(C)=O | C8H15ClO3
